US04612311
(±)-7-Chloro-2-hydroxy-5-phenyl-[1,2,4]triazolo[5,1-c][1,2,4]benzothiadiazine-5-oxide
To a solution of 7.0 g of 4-amino-7-chloro-3,4-dihydro-3-imino-1-phenyl-1,2,4-benzothiadiazine-1-oxide, prepared according to Example 6, in 250 ml tetrahydrofurane are added 0.68 g of sodium hydride (80%) in portions. After stirring for 30 minutes at room temperature 2.4 ml ethyl chloroformate, dissolved in 10 ml tetrahydrofuran, are added dropwise. The mixture is stirred at room temperature for three hours, then separated from the precipitated sodium chloride and concentrated. The residue is dissolved in 150 ml toluene and boiled for 16 hours under reflux. The precipitated product is sucked off and crystallized from dimethylformamide/methanol as colorless crystals, m. pt. 343°-348° C.

reactant | 4-amino-7-chloro-3,4-dihydro-3-imino-1-phenyl-1,2,4-benzothiadiazine-1-oxide | 7.0 g | NN1C(NS(C2=C1C=CC(=C2)Cl)(C2=CC=CC=C2)=O)=N | C13H13ClN4OS
reactant | sodium hydride | 0.68 g | [H-].[Na+]
reactant | ethyl chloroformate | 2.4 ml | ClC(=O)OCC | C3H5ClO2
solvent | tetrahydrofurane | 250 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (±)-7-Chloro-2-hydroxy-5-phenyl-[1,2,4]triazolo[5,1-c][1,2,4]benzothiadiazine-5-oxide | ClC1=CC2=C(N3C(=NS2(C2=CC=CC=C2)=O)N=C(N3)O)C=C1 | C14H11ClN4O2S
